US04174405
A mixture of 29.7 g (0.13 mole) of 2-(m-trifluoromethylphenyl)thiophene, 200 ml of reagent carbon tetrachloride, 15.5 ml (18.8 g 0.13 mole) of benzene sulfenyl chloride and 0.05 g of iron powder was allowed to stand 4 days at room temperature. The reaction mixture was found by vapor phase chromatography to contain approximately equal amounts of 2-(m-trifluoromethylphenyl)thiophene, diphenyl disulfide and the desired disubstituted thiophene. An additional 12.7 ml (0.11 mole) of benzenesulfenyl chloride and 0.05 g of iron powder were added. The mixture was stirred 2 hours at room temperature and then 1 hour at reflux. The carbon tetrachloride solvent was removed by distillation. The residue was distilled at reduced pressure to give 17 g (39%) of 2-phenylthio-5-(m-trifluoromethylphenyl)thiophene b.p. 172°-210° C. (0.04 mm), nD21 =1.6329-1.6330.

reactant | 2-(m-trifluoromethylphenyl)thiophene | 0.13 mole, 29.7 g | FC(C=1C=C(C=CC1)C=1SC=CC1)(F)F | C11H7F3S
reactant | benzene sulfenyl chloride | 0.13 mole, 15.5 ml, 18.8 g | C1(=CC=CC=C1)SCl | C6H5ClS
reactant | diphenyl disulfide | C1(=CC=CC=C1)SSC1=CC=CC=C1 | C12H10S2
reactant | benzenesulfenyl chloride | 0.11 mole, 12.7 ml | C1(=CC=CC=C1)SCl | C6H5ClS
catalyst | iron | 0.05 g | [Fe] | Fe
catalyst | iron | 0.05 g | [Fe] | Fe
solvent | carbon tetrachloride | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2-phenylthio-5-(m-trifluoromethylphenyl)thiophene | 17 g, 39% | C1(=CC=CC=C1)SC=1SC(=CC1)C1=CC(=CC=C1)C(F)(F)F | C17H11F3S2
